US07390830B1
Synthesis of 1-benzyl-4-(glycylamino)piperidine
A 4 M dioxane solution of HCl was added to a methanol (80 mL) solution of 1-benzyl-4-[N-(tert-butoxycarbonyl)glycyl]aminopiperidine (6.59 g). The resulting solution was stirred at room temperature for 2 hours and concentrated. A 2 M aqueous solution of NaOH (20 mL) was then added to the solution. The resulting mixture was extracted with dichloromethane (40 mL). The extracts were combined, dried over anhydrous sodium sulfate and concentrated. The obtained crude product was purified by column chromatography (SiO2, ethyl acetate/methanol/triethylamine=85:12:3) to thereby provide 1-benzyl-4-(glycylamino)piperidine (3.91 g, 83%). 1H NMR (CDCl3, 400 MHz) δ 1.47-1.59 (m, 2H), 1.59 (br, 2H), 1.76-1.96 (m, 2H), 2.10-2.19 (m, 2H), 2.75-2.87 (m, 2H), 3.29 (s, 2H), 3.50 (s, 2H), 3.65-3.89 (m, 1H), 7.15-7.23 (m, 1H), 7.23-7.33 (m, 5H).

reactant | dioxane | 4 M | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
reactant | 1-benzyl-4-[N-(tert-butoxycarbonyl)glycyl]aminopiperidine | 6.59 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(CNC(=O)OC(C)(C)C)=O | C19H29N3O3
solvent | methanol | 80 mL | CO | CH4O
product | 1-benzyl-4-(glycylamino)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC(CN)=O | C14H21N3O
